US05547962
A mixture of 31.9 g of ethyl (2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acetate, 26.2 ml of ethyl orthoformate and 23.8 ml of acetic anhydride was heated at reflux for 1 hour. The reaction mixture was evaporated to give 46.2 g of ethyl 3-ethoxy-2-(2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acrylate as brown oil. To a solution of 45.4 g of this compound in 328 ml of ethanol, 9.6 ml of cyclopropylamine was added dropwise under ice cooling with stirring. After 30 minutes at room temperature, the reaction mixture was evaporated and the residue was purified by column chromatography (silica gel, n-hexane-methylene chloride (1:1)) to give 28.8 g of the desired compound as yellow crystals. Recrystallization from isopropyl ether to provide yellow needles, m.p. 115°-115.5° C.

reactant | ethyl (2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acetate | 31.9 g | FC1=C(C(=O)CC(=O)OCC)C(=C(C(=C1C)F)F)[N+](=O)[O-] | C12H10F3NO5
reactant | ethyl orthoformate | 26.2 ml | C(OCC)([O-])[O-]
reactant | acetic anhydride | 23.8 ml | C(C)(=O)OC(C)=O | C4H6O3
product | ethyl 3-ethoxy-2-(2,4,5-trifluoro-3-methyl-6-nitrobenzoyl)acrylate | 46.2 g | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1[N+](=O)[O-])F)F)C)F)=O | C15H14F3NO6
